US07528143B2
4-(4-Acetylamino-benzenesulfonyl)-piperidine-1-carboxylic acid tert-butyl ester (Intermediate 71)
A mixture of 4-(4-bromo-benzenesulfonyl)-piperidine-1-carboxylic acid tert-butyl ester (4 g, 9.92 mmol), acetamide (0.88 g, 14.9 mmol), Pd2(dba)3 (0.46 g, 0.49 mmol), Xantphos (0.56 g, 0.99 mmol) and cesium carbonate (9.7 g, 29.8 mmol) were suspended in dioxane (60 mL) and heated at reflux under the argon atmosphere for 4 h. The reaction mixture was cooled to room temperature and poured onto ice. Resulting yellow solids collected by filtration and dried. Crude product was purified by flash chromatography on silica gel to afford the title compound as a beige solid (3.12 g, 82%).

reactant | 4-(4-bromo-benzenesulfonyl)-piperidine-1-carboxylic acid tert-butyl ester | 9.92 mmol, 4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)Br | C16H22BrNO4S
reactant | acetamide | 14.9 mmol, 0.88 g | C(C)(=O)N | C2H5NO
reactant | Xantphos | 0.99 mmol, 0.56 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 29.8 mmol, 9.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.49 mmol, 0.46 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-Acetylamino-benzenesulfonyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.12 g, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C18H26N2O5S
